US03991200
0.5 g. (1.64 millimole) of β-(1-benzyl-5-nitro-2-imidazolyl)styrene in 95% aqueous methanol is treated with ozone until a clear solution is obtained. To this solution at 15° C., 0.312 g. (1.64 millimole) of sodium meta-bisulfite (Na2S2O5) in 3 ml. of water is added. The mixture is then evaporated to dryness under reduced pressure at 75° C. and the solid extracted with ethyl acetate. The ethyl acetate extracts are dried, evaporated to dryness to give a yellow-orange residue (probably bisulfite addition product) which solidifies upon standing. This material is dissolved in 20 ml. of aqueous methanol and 0.15 g. of thiosemicarbazide and a drop of 6N hydrochloric are added. After refluxing for 15 minutes and cooling, 0.25 g., melting point 193°-196° C., of 1-benzyl-5-nitro-2-imidazolecarboxaldehyde thiosemicarbazone is isolated. The use of a half of an equimolar amount of sodium meta-bisulfite affords the title aldehyde instead of the bisulfite addition product. When the ethyl acetate extract is evaporated to dryness and dissolved in 75% aqueous ethanol and semicarbazone is added, and the mixture is heated on a steam bath for 10 minutes, and sodium acetate is added, the semicarbazone derivative, melting point 226°-228° C. is obtained. Twelve grams of 1-benzyl-5-nitro-2-imidazolecarboxaldehyde thiosemicarbazone are added to a stirred solution of 76.2 g. of ferric ammonium sulfate dodecahydrate in 600 ml. of water at 50° C. and the slurry is heated at 90°-95° C. for 6 hours. The mixture is cooled in ice and the yellow-brown solid collected, washed with water, and dried under pressure. The yield of product is 10.9 g. Recrystallization from methanol gives analytically pure material melting at 213°-215° C.

reactant | β-(1-benzyl-5-nitro-2-imidazolyl)styrene | 1.64 millimole | C(C1=CC=CC=C1)N1C(=NC=C1[N+](=O)[O-])C=CC1=CC=CC=C1 | C18H15N3O2
reactant | ozone | O=[O+][O-] | O3
reactant | sodium meta-bisulfite | 1.64 millimole | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | bisulfite | S([O-])(O)=O
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-benzyl-5-nitro-2-imidazolecarboxaldehyde thiosemicarbazone | C(C1=CC=CC=C1)N1C(=NC=C1[N+](=O)[O-])C=NNC(=S)N | C12H12N6O2S
